US07691882B2
3-(3-(6-(3-Fluoro-phenoxy)-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (2 mL) solution of 3-ethynyl-pyridin-2,6-diamine (10 mg, 75 μmol) described in Manufacturing Example 13-1-3 and (6-(3-fluoro-phenoxy)-pyridin-3-yl)-acetohydroximoyl chloride (42 mg, 0.15 mmol) described in Manufacturing Example 71-1-4 was added triethylamine (21 μL, 0.15 mmol), which was stirred for 1 hour at 50° C. under nitrogen atmosphere. Water was added at room temperature to the reaction mixture at room temperature, which was extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate:methanol=20:1) to obtain the title compound (27 mg, 95%).

reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | 3-ethynyl-pyridin-2,6-diamine | 75 μmol, 10 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | (6-(3-fluoro-phenoxy)-pyridin-3-yl)-acetohydroximoyl chloride | 0.15 mmol, 42 mg | FC=1C=C(OC2=CC=C(C=N2)CC(=NO)Cl)C=CC1 | C13H10ClFN2O2
reactant | triethylamine | 0.15 mmol, 21 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(6-(3-Fluoro-phenoxy)-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 27 mg, 95% | FC=1C=C(OC2=CC=C(C=N2)CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=CC1 | C20H16FN5O2
